US07119120B2
5-tert-Butyl-2-methyl-2H-pyrazole-3-carboxylic acid(4-trifluoromethyl-phenyl)-amide
4-Trifluoromethylaniline (19.39 g, 120.3 mmol) and triethylamine (13.4 g ,132 mmol) was added to 400 ml of anhydrous dichloromethane in a 1-liter round bottomed flask. This stirred solution was cooled to 4° C. using an ice water bath. 3-tert-Butyl-1-methyl-1H-pyrazole-5-carbonyl chloride 26.57 g (132 mmol) was added drop wise to this cooled solution. The reaction mixture was allowed to warm to room temperature and then was stirred at ambient temperature for 18 hours. The reaction mixture was then placed in an extraction funnel and then extracted first with 400 ml of 1N HCl and subsequently with 300 ml of water. The extraction with water was repeated. The organic layer was then stirred in a 2 liter Erlenmeyer flask and 500 ml of hexane added. The mixture was stirred for 2 hours and provided a precipitate which was collected by filtration on a Buchner funnel. The white solid was then dried in vacuum oven at 40° C. for 24 hours to give 20.63 g of pure product (52% yield). 1H NMR (400 MHz CDCl3) δ: 7.85 (s 1H) 7.74 (s 2H) 7.62 (d 1H) 6.53 (s 1H) 4.16 (s 3H) 1.33 (s 9H). MS: m/z 324.2 (M−1)

reactant | 4-Trifluoromethylaniline | 120.3 mmol, 19.39 g | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | triethylamine | 132 mmol, 13.4 g | C(C)N(CC)CC | C6H15N
reactant | 3-tert-Butyl-1-methyl-1H-pyrazole-5-carbonyl chloride | 132 mmol, 26.57 g | C(C)(C)(C)C1=NN(C(=C1)C(=O)Cl)C | C9H13ClN2O
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 5-tert-Butyl-2-methyl-2H-pyrazole-3-carboxylic acid(4-trifluoromethyl-phenyl)-amide | 20.63 g, 52% yield | FC(C1=CC=C(C=C1)NC(=O)C=1N(N=C(C1)C(C)(C)C)C)(F)F | C16H18F3N3O
